US07704991B2
3-Benzyl-3,8-diaza-bicyclo[3.2.1]octane (Intermediate Compound)
Was prepared in the same manner as 8-methyl-3,8-diazabicyclo[3.2.1]octane, from benzylamine instead of methylamine.

reactant | 8-methyl-3,8-diazabicyclo[3.2.1]octane | CN1C2CNCC1CC2 | C7H14N2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 3-Benzyl-3,8-diaza-bicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1CC2CCC(C1)N2 | C13H18N2
